.title mc_PLO
.include "../../../autohv_bicmos180_case.lib"
.param case=0
.param PROC_ON=1
.param MM_ON=1
.option num_threads=2
Vdd vdd 0 1.8
Vin in 0 PULSE(0 1.8 20n 0.02n 0.02n 80n 400n)
XI1 nIN in vdd vdd PMOS18 W=0.7u L=0.18u
XI2 nIN in 0   0   NMOS18 W=0.3u L=0.18u
XR nIN nC RPOLY_HI L=55.9375u W=0.5u
XC nC 0 CMIM_HI L=5.3600u W=5.3600u
XBP nC in 0 0 NMOS18 W=0.6u L=0.18u
XS1 s1 nC 0   0   NMOS18 W=0.3u L=0.18u
XS2 dco nC s1 0 NMOS18 W=0.3u L=0.18u
XS3 s2 nC vdd vdd PMOS18 W=0.7u L=0.18u
XS4 dco nC s2 vdd PMOS18 W=0.7u L=0.18u
XS5 vdd dco s1 0   NMOS18 W=0.3u L=0.18u
XS6 0   dco s2 vdd PMOS18 W=0.7u L=0.18u
XPI1 dbar dco vdd vdd PMOS18 W=0.7u L=0.18u
XPI2 dbar dco 0   0   NMOS18 W=0.3u L=0.18u
XG1 p1  in   vdd vdd PMOS18 W=0.7u L=0.18u
XG2 nnr dbar p1  vdd PMOS18 W=0.7u L=0.18u
XG3 nnr in   0   0   NMOS18 W=0.3u L=0.18u
XG4 nnr dbar 0   0   NMOS18 W=0.3u L=0.18u
XO1 out nnr vdd vdd PMOS18 W=0.7u L=0.18u
XO2 out nnr 0   0   NMOS18 W=0.3u L=0.18u
CL out 0 5.0f
.control
let nmc = 200
let i = 0
dowhile i < nmc
  reset
  option temp=27
  let h=0.9
  let v10=0.18000000000000002
  let v90=1.62
  tran 0.05n 180n
  meas tran m trig v(out) val=$&h fall=1 td=99n targ v(out) val=$&h rise=1 td=99n
  meas tran fe trig v(in) val=$&h rise=1 targ v(out) val=$&h rise=1
  meas tran tr trig v(out) val=$&v10 rise=1 td=99n targ v(out) val=$&v90 rise=1 td=99n
  meas tran tf trig v(out) val=$&v90 fall=1 td=99n targ v(out) val=$&v10 fall=1 td=99n
  echo "RES it=$&i m=$&m fe=$&fe tr=$&tr tf=$&tf"
  let i = i + 1
end
.endc
.end
